US06929873B2
3,8-dibutoxy-1,10-phenanthroline was synthesized from 3,8-dihydroxy-1,10-phenanthroline hydrobromate and 1-bromobutane using sodium hydride.

reactant | 3,8-dihydroxy-1,10-phenanthroline | OC=1C=NC2=C3N=CC(=CC3=CC=C2C1)O | C12H8N2O2
reactant | 1-bromobutane | BrCCCC | C4H9Br
reactant | sodium hydride | [H-].[Na+]
product | 3,8-dibutoxy-1,10-phenanthroline | C(CCC)OC=1C=NC2=C3N=CC(=CC3=CC=C2C1)OCCCC | C20H24N2O2
